US07320973B2
3-Pyrrolidinophenethyl mesylate (1.80 g, 4.00 mmol), (S)-3-pyrrolidinol hydrochloride (0.50 g, 4.05 mmol) and potassium carbonate (1.70 g, 12.3 mmol) were added to acetonitrile (20 ml), and they were stirred at 100° C. for 12 hours. Acetonitrile was evaporated under reduced pressure, and the residue was distributed into water and ethyl acetate. The intended product was extracted from the ethyl acetate layer with 1 M hydrochloric acid. After neutralizing the aqueous layer, the product was again extracted with ethyl acetate. The organic layer was dried and then the solvent was evaporated under reduced pressure to quantitatively obtain (S)-3-hydroxy-1-(3-pyrrolidinophenethyl)pyrrolidine in the form of a light yellow solid. This product was dissolved in dichloromethane (10 ml). Triethylamine (0.76 ml, 5.49 mmol) and methanesulfonyl chloride (0.39 ml, 5.03 mmol) were added to the obtained solution at 0° C. and they were stirred overnight. The reaction mixture was distributed into 5% aqueous sodium hydrogencarbonate solution and dichloromethane. The organic layer was dried and then the solvent was evaporated under reduced pressure. The residue was subjected to the silica gel column chromatography. After the elution with chloroform and methanol (95:5), suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain (R)-3-methanesulfonyloxy-1-(3-pyrrolidinophenethyl)pyrrolidine in the form of a light yellow oily substance (1.30 g, 96%).

reactant | 3-Pyrrolidinophenethyl mesylate | 4.00 mmol, 1.80 g | S(C)(=O)(=O)OCCC1=CC(=CC=C1)N1CCCC1 | C13H19NO3S
reactant | (S)-3-pyrrolidinol hydrochloride | 4.05 mmol, 0.50 g | Cl.N1C[C@H](CC1)O
reactant | potassium carbonate | 12.3 mmol, 1.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | Triethylamine | 5.49 mmol, 0.76 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.03 mmol, 0.39 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (R)-3-methanesulfonyloxy-1-(3-pyrrolidinophenethyl)pyrrolidine | CS(=O)(=O)O[C@H]1CN(CC1)CCC1=CC(=CC=C1)N1CCCC1 | C17H26N2O3S
